US06652834B2
A) 10-Octadecyl-1,4,7,10-tetraazacyclododecane-1,4,7-triacetic Acid
A mixture of 1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid tris(1,1-dimethylethyl)ester (37.5 g; 72.8 mmol) and 1-bromooctadecane (24.5 g; 73.5 mmol) in CH3CN (500 mL) was heated to reflux. After 2 h the reaction mixture was evaporated and the residue was dissolved in CHCl3 and a portion of CF3COOH was added. After 16 h at room temperature the reaction mixture was evaporated and the oily residue dissolved in CF3COOH. After 3 days at room temperature, the solution was evaporated, the residue taken up in CHCl3 and the solution evaporated. This operation was repeated three times. The oily residue was purified by flash chromatography as follows:

reactant | 1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid tris(1,1-dimethylethyl)ester | 72.8 mmol, 37.5 g | CC(C)(C)OC(CN1CCN(CCN(CCNCC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C26H50N4O6
reactant | 1-bromooctadecane | 73.5 mmol, 24.5 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | 10-Octadecyl-1,4,7,10-tetraazacyclododecane-1,4,7-triacetic Acid | C(CCCCCCCCCCCCCCCCC)N1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C32H62N4O6
